US07470798B2
A mixture of 1,2,3,4-tetrahydro-1,4-methano-naphthalene-5,8-diol (1.34 g, 794 mmol), 1.0 mL (3.97 mmol) of BF3.Et2O and 25 ml of dioxane was heated up to 110° C. under a N2 atmosphere. A solution of 6-chloro-3-methyl-hex-1-en-3-ol (1.12 g, 8.6 mmol) in 24 ml of dioxane was added slowly to the mixture. The addition was completed after two hours and the mixture was continued to reflux for an additional 3 hours. After cooling down to room temperature, the mixture was poured to water, extracted with ethyl acetate, washed with water and dried over MgSO4. After removal of the solvents, the residue was mixed with methanol/HCl and let stand overnight at room temperature. After the removal of the solvents the residue was purified via flash column chromatography on silica gel (1:3 EtOAc/Hex) twice to give 1.30 g of 2-(3-chloro-propyl)-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-6-ol. 1H-NMR (300 MHz, CDCl3) δ (ppm): 6.39 (s, 1H), 4.27 (s, 1H), 3.63-3.47 (m, 4H), 2.73-2.70 (m, 2H), 2.00-1.47 (m, 8H), 1.43-1.15 (m, 4H); MS: 307 (M+H+, 100%).

reactant | 1,2,3,4-tetrahydro-1,4-methano-naphthalene-5,8-diol | 794 mmol, 1.34 g | C12CCC(C=3C(=CC=C(C13)O)O)C2 | C11H12O2
reactant | BF3.Et2O | 3.97 mmol, 1.0 mL | B(F)(F)F.CCOCC
reactant | 6-chloro-3-methyl-hex-1-en-3-ol | 8.6 mmol, 1.12 g | ClCCCC(C=C)(O)C | C7H13ClO
reactant | water | O | H2O
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 2-(3-chloro-propyl)-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-6-ol | 1.30 g | ClCCCC1(OC2=C3C(=C(C=C2CC1)O)C1CCC3C1)C | C18H23ClO2
